US08003662B2
Step C: Preparation of 5-(2,5-difluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A mixture of 5-(2,5-difluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.031 g, 0.093 mmol), 7-chloro-2-iodothieno[3,2-b]pyridine (0.025 g, 0.085 mmol; prepared according to the procedure of Ragan, J. A. Org. Proc. Res. 2003, 7, 676) and DMAP (0.010 g, 0.085 mmol) in bromobenzene (1.5 mL) under nitrogen was stirred at 150° C. for 6 days. The reaction was concentrated in vacuo to remove as much bromobenzene as possible and then purified directly by flash column chromatography, eluting with 20:1 CH2Cl2/MeOH. The product was obtained (10.5 mg; 21%) as a yellow solid. LRMS (APCI pos) m/e 589 (M+1).

reactant | 5-(2,5-difluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.093 mmol, 0.031 g | FC1=C(C=C(C(=C1)O)F)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C17H13F2N3O2
reactant | 7-chloro-2-iodothieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)I | C7H3ClINS
catalyst | DMAP | 0.085 mmol, 0.010 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | bromobenzene | 1.5 mL | BrC1=CC=CC=C1 | C6H5Br
product | 5-(2,5-difluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | FC1=C(C=C(C(=C1)OC1=C2C(=NC=C1)C=C(S2)I)F)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C24H15F2IN4O2S
